US05990101
3-(N-methoxycarbonylamino)sulfonylaminomethyl imidazo[5,1-b]thiazole
A 0.081 ml potion of dry methanol was added dropwise to 0.35 ml of a dry dichloromethane solution containing 0.175 ml of chlorosulfonyl isocyanate at a bath temperature of -55° C. under stirring, and the mixture was then stirred for 20 minutes. Then, the precipitate was dissolved in 2.0 ml of dry dichloromethane, and this mixed solution was added dropwise to 10 ml of a dry dichloromethane solution containing 153 mg of 3-aminomethylimidazo[5,1-b]thiazole and 0.28 ml of triethylamine at an internal temperature of -47° C. over 2 minutes, and the mixture was then stirred at -47 to -35° C. for 60 minutes. After the addition of 10 ml of a 1/15M phosphoric acid buffer, the solution was adjusted to pH 7.5 with 5% sodium bicarbonate, and after salting-out, extraction was carried out five times with 30 ml of dichloromethane. Further, the aqueous layer was adjusted to pH 6 with 1N hydrochloric acid, and extraction was then carried out five times with 30 ml of ethyl acetate. The extract was combined with the above dichloromethane extract. Afterward, the solution was dried over anhydrous magnesium sulfate, and the solvent was then evaporated under reduced pressure. The resulting residue was recrystallized from methanol to obtain 87.4 mg of the title compound as a light yellow crystal.

reactant | chlorosulfonyl isocyanate | 0.175 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 3-aminomethylimidazo[5,1-b]thiazole | 153 mg | NCC=1N2C(SC1)=CN=C2 | C6H7N3S
reactant | phosphoric acid | 15M | P(O)(O)(O)=O | H3O4P
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 2.0 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.35 ml | ClCCl | CH2Cl2
solvent | triethylamine | 0.28 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | CO | CH4O
product | 3-(N-methoxycarbonylamino)sulfonylaminomethyl imidazo[5,1-b]thiazole | 87.4 mg | COC(=O)NS(=O)(=O)NCC=1N2C(SC1)=CN=C2 | C8H10N4O4S2
